data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,9602,"CC(=O)[O:1][H:2].O.O=C(O)CN1C(C2=C3C=CC=CC3=CC=C2)=CC(C2=CC=CC=C2)C1(C1=CC=CO1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8919,"CCC1C[C:1]([O:2][H:3])=[NH+:4]C2=CC=CC=C21.[OH2:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9683,"C[O+:1](C)[K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,2956,"COC1=C(OC)C=C2C(=C1)OC1=C(C2CN(C)C(=O)[CH:1]=[S+:2]C)[CH:3]=[CH:4][CH:5]=[C:6]1[O:7]CC1=CC=CC=C1.O=C(O)C(F)(F)F.O=C([O-])C(F)(F)F|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7281,"CO[C:1]([CH:2](C(=O)CC1=CC=CC=C1)[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,1872,"CC(C)[C:1]1([H:2])C=C[C+:3](C)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,1626,"C1=CC2=C(C=C1)C=C(C[OH:1])C=C2.CCC(C(=O)[O-])C(=O)C1=CC=CC=C1.CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCC=C(F)F|(1, 2)"
train,pmechdb_split_0,0,4718,"CC1(CC[C:1]#[C:2]C[Si](C)(C)C)CC[C:3](=[OH+:4])[CH:5]=[C:6]1C.CS(=O)(=O)[O-]|((2, 1), 6);((6, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7972,"CC(=O)O.O.O=C=O.O=[N+]([O-])[CH-:1]CCC[N+:2]1=[CH:3]CCCC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4998,"C[OH+:1][CH:2](N)[NH2:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7334,"CC([OH+][Li:1])C(C)C1=CC=CC=C1.[AlH3].[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,4464,"C1=COC(C[NH2+:1][H:2])=C1.CC1=CCC(C)([O-:3])N1CC1=CC=CO1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,365,"CN(C)[CH:1]=[N+:2](C)C.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3334,"C1CC[NH2+]CC1.CN(C)C=O.CNC(=O)C(C)NC(=O)[O:1][CH2:2][C-:3]1C2=C(C=CC=C2)C2=C1C=CC=C2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9327,"CC[O-:1].C[CH:2](C1=CC=CC=C1)[Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5396,"CC(=O)[O:1][H:2].CCOC(=O)C(C(=[NH2+])COC)C1C=C([O-:3])C=CC1=O.CCOC(C)=O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6462,"O=C1CCC(=O)N1.O=[N+]([O-])C1=CC=C(CO[P:1](C2=CC=CC=C2)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,712,"CCC(C)OS(=O)(=O)C1=CC=C([CH:1]=[O:2])C=C1.[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5975,"CC(C)=[O+:1][H:2].O=S(=O)(O)[O-:3].OC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5112,"BrC1=C(C=[O:1])C=CC=C1.CC(C)=C[C]1([Li:2])SCCCS1|(1, 2)"
train,pmechdb_split_0,0,4439,"CC[N:1](C(C)=O)[H:2].N#[C-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9712,"CO[P-:1]1(=O)(OC)[C:2](=[N+]=[N-])[C:3](C)(C)[O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7175,"C=C[CH2:1][Br:2].CCN(CC)C1=CC2=C(C=C1)C=C(C(=O)C1=CC=C(N3CC[NH:3]CC3)C=C1)O2.O=C([O-])[O-].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,567,"CC(C)CC(N[C:1](=[OH+:2])[O:3][C:4](C)(C)C)C(=O)NCC1=CC=CC=C1.O=C([O-])C(F)(F)F.[Cl-]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8369,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.[Cl:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8829,"CC1[CH:1]([OH:2])[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3487,"CC[C:1]1(C)C[OH+:2]1.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,715,"C1COCCO1.CC(=O)C1=CC(F)=C(N2CC[NH:1]CC2)C=C1.CCN(CC)CC.O=[N+]([O-])C1=CC=C(F)C([C:2](Cl)=[O:3])=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7502,"CCO[C:1](C)([OH:2])[O:3]C(=O)CCC=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1197,"CC1(C)CCC2=C(C=CC=C2)[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4792,"CCOC(=O)[N+:1](CC1=CC=CC=C1)=[CH:2]C1=CC=CC=C1.CC[O][Al-]([Cl])([Cl])[CH2]C.C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3331,"CCCC1CC2=C(C(O)=C(OC)C=C2)[C:1](=[O:2])C1CC[C:3](=[CH2:4])[O-:5].O.O=C[O][Na].[OH2+][Na]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1577,"C1CCOC1.COC1=C(Br)C([CH:1]2[OH+:2]CCC[O:3]2)=C(OC)C=C1.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6653,"CC(O)[C:1](C)([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1442,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[NH:1]1.COC1=C(O)C2=C(C=C1)CC1NCCC23C1CC(OC)[C:2](=[OH+:3])[CH:4]3[H:5].CS(=O)(=O)[O-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,9206,"O=C([O][Ca][OH])[CH2:1][Cl:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8479,"CC1=CC=C(C2(O)C[CH:1]([H:2])[C:3](C3=CC=CC=C3)=[O+:4]2)C=C1.CC1=CC=C(S(=O)(=O)[O-:5])C=C1.CC1=CC=CC=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6647,"CC(C)(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.C[CH+:5]C|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,5276,"NCCCC1CCCCC1=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1078,"C=CC(C)C(C1=CC=CC=C1)[OH+:1][B-:2]1(OCCN(CCO)CCO)OC(C)(C)C(C)(C)O1.OCCN(CCO)CCO|((2, 1), 1)"
train,pmechdb_split_0,0,2149,"C=C[CH2][Cu:1]([Mg][Br])[CH2:2]C=C.CC1[CH2:3][O:4]1|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7835,"CN[CH:1]([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3256,"CCCCCC1CC(C2CCCCC2)C[CH:1]([O:2]S(=O)(=O)C2=CC=C(C)C=C2)C1OC(C)=[O:3]|(3, 1);((1, 2), 2)"
